US07825109B2
6-[(4-isobutylphenyl)ethynyl]-3,4-dihydronaphthalen-1(2H)-one
To cuprous iodide (48 mg), a solution of the compound (353 mg) prepared in Reference Example 06 in N,N-dimethylformamide (3 mL), triethylamine (279 μl) and a solution of 1-ethynyl-4-isobutylbenzene (158 mg) in N,N-dimethylformamide (5 mL) were added, followed by stirring at room temperature for 5 minutes. Next, tetrakis(triphenylphosphine) palladium (0) (58 mg) was added thereto, followed by stirring for 19 hours. After adding 1 N hydrochloric acid, the mixture was extracted with ethyl acetate. The organic layer was successively washed with 1 N hydrochloric acid, a saturated aqueous sodium hydrogencarbonate solution and a saturated aqueous sodium chloride solution, dried and concentrated. The residue thus obtained was purified by silica gel column chromatography (hexane:ethyl acetate=95:5) to thereby give the title compound (209 mg) having the following physical properties.

reactant | triethylamine | 279 μl | C(C)N(CC)CC | C6H15N
reactant | 1-ethynyl-4-isobutylbenzene | 158 mg | C(#C)C1=CC=C(C=C1)CC(C)C | C12H14
reactant | hydrochloric acid | 1 N | Cl | ClH
reactant | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
reactant | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
catalyst | tetrakis(triphenylphosphine) palladium (0) | 58 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 6-[(4-isobutylphenyl)ethynyl]-3,4-dihydronaphthalen-1(2H)-one | 209 mg | C(C(C)C)C1=CC=C(C=C1)C#CC=1C=C2CCCC(C2=CC1)=O | C22H22O
